US04113715
By substituting 1[2-acetylthiomethyl-5-(p-methoxybenzyloxycarbonylamino)pentanoyl]-L-proline for the N,S-diacetyl-DL-cysteinyl-L-proline in the procedure of Example 5, 1-[2-mercaptomethyl-5-(p-methoxybenzyloxycarbonylamino)pentanoyl]-L-proline is obtained.

reactant | 1[2-acetylthiomethyl-5-(p-methoxybenzyloxycarbonylamino)pentanoyl]-L-proline | C(C)(=O)SCC(C(=O)N1[C@H](C(=O)O)CCC1)CCCNC(=O)OCC1=CC=C(C=C1)OC | C22H30N2O7S
reactant | N,S-diacetyl-DL-cysteinyl-L-proline | C(C)(=O)NC(CSC(C)=O)C(=O)N1[C@H](C(=O)O)CCC1 | C12H18N2O5S
product | 1-[2-mercaptomethyl-5-(p-methoxybenzyloxycarbonylamino)pentanoyl]-L-proline | SCC(C(=O)N1[C@H](C(=O)O)CCC1)CCCNC(=O)OCC1=CC=C(C=C1)OC | C20H28N2O6S
